US07037935B2
b) (RS)-1-(4-Benzyloxy-phenyl)-4-chloromethyl-pyrrolidin-2-one
740 mg (2.49 mmol) (RS)-1-(4-benzyloxy-phenyl)-4-hydroxymethyl-pyrrolidin-2-one is dissolved in 20 ml toluene. 1.08 ml (14.9 mmol) thionyl chloride is added and the mixture refluxed for 6 hours. Evaporation and chromatography (silica gel, n-hexane/ethyl acetate 1:1) yields 123 mg (16%) of a brownish semisolid. MS: m/e=315.2 (M+).

reactant | (RS)-1-(4-benzyloxy-phenyl)-4-hydroxymethyl-pyrrolidin-2-one | 2.49 mmol, 740 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(CC(C1)CO)=O | C18H19NO3
reactant | thionyl chloride | 14.9 mmol, 1.08 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-1-(4-Benzyloxy-phenyl)-4-chloromethyl-pyrrolidin-2-one | 123 mg, 16% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(CC(C1)CCl)=O | C18H18ClNO2
